US04309426
4.16 g (0.035 mole) of 4,4-dimethyl-thiosemicarbazide and 7.82 g (0.035 mole) of 2,4-dichlorophenacyl chloride are reacted under the conditions of Example 2. After concentration, ethyl acetate is added to the residue and further concentration is employed. A yellow, needle-like solid is produced. The solid is dried under high vacuum at 65° C. Subsequently, it is recrystallized from methanol/ethyl acetate and again dried under high vacuum to produce 5-(2,4-dichlorophenyl)-N,N-dimethyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride. m.p. 219°-222° C.

reactant | 4,4-dimethyl-thiosemicarbazide | 0.035 mole, 4.16 g | CN(C(NN)=S)C | C3H9N3S
reactant | 2,4-dichlorophenacyl chloride | 0.035 mole, 7.82 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
product | 5-(2,4-dichlorophenyl)-N,N-dimethyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C1=NN=C(SC1)N(C)C | InChI=1S/C11H11Cl2N3S.ClH/c1-16(2)11-15-14-10(6-17-11)8-4-3-7(12)5-9(8)13;/h3-5H,6H2,1-2H3;1H
